US07429604B2
4-Phenyl-pyridine-2-carbaldehyde: To a clear, colorless solution of 1A (0.850 g, 4.5 mmol) in propionitrile (4.5 mmol) was added trimethylsilyl bromide (2.95 mL, 22.4 mmol). The resulting orange suspension was microwaved in a sealed tube at 150° C. for 10 min. The reaction was cooled to rt and poured into 1.0 N NaOH containing ice. The aqueous layer was extracted with diethyl ether (2×). The combined organic layers were washed with sat. NaHCO3, brine, dried over Na2SO4, filtered and concentrated to give 1.07 g of 2-bromo-4-phenyl pyridine as an off-white solid. MS 233.9 (M+H)+ and 235.9 (M+2+H)+.

reactant | 4-Phenyl-pyridine-2-carbaldehyde | C1(=CC=CC=C1)C1=CC(=NC=C1)C=O | C12H9NO
reactant | propionitrile | 4.5 mmol | C(CC)#N | C3H5N
reactant | trimethylsilyl bromide | 22.4 mmol, 2.95 mL | C[Si](C)(C)Br | C3H9BrSi
reactant | NaOH | 1.0 N | [OH-].[Na+]
product | 2-bromo-4-phenyl pyridine | 1.07 g | BrC1=NC=CC(=C1)C1=CC=CC=C1 | C11H8BrN
